US07714126B2
The solution of 4-(5-nitro-pyridin-2-yl)-morpholine (1.5 g, 7.18 mmol) in ethyl acetate (20 mL) in the presence of 10% palladium on carbon (0.75 g) was shaken under the hydrogen with a pressure of 50 psi at room temperature for 3 hr. After the reaction, the reaction mixture was filtered through a plug of celite and the filtration pad was washed with ethyl acetate. The organic layer was collected, concentrated, and dried to give 6-morpholin-4-yl-pyridin-3-ylamine (1.11 g, crude) as a light red solid, which was directly used in the next step reaction without further purification. LCMS calcd for C9H14N3O (m/e) 179, obsd 180 (M+H).

reactant | 4-(5-nitro-pyridin-2-yl)-morpholine | 7.18 mmol, 1.5 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCOCC1 | C9H11N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
product | 6-morpholin-4-yl-pyridin-3-ylamine | 1.11 g | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
